US04366164
B. N,N"-1,3-Propanediylbis-[N'-[3-[3-[(dimethylamino) methyl]phenoxy]propyl]thiourea]
A mixture of 3-(3-isothiocyanatopropoxy)-N,N-dimethylbenzenemethanamine (2.24 g) and 1,3-diaminopropane (0.42 g) in acetonitrile (50 ml) was stirred at room temperature for 24 hours. The solvent was evaporated in vacuo and the oily residue chromatographed (silica/methanol) to yield the title compound (0.46 g) as a gum.

reactant | 3-(3-isothiocyanatopropoxy)-N,N-dimethylbenzenemethanamine | 2.24 g | N(=C=S)CCCOC=1C=C(C=CC1)CN(C)C | C13H18N2OS
reactant | 1,3-diaminopropane | 0.42 g | NCCCN | C3H10N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N,N"-1,3-Propanediylbis-[N'-[3-[3-[(dimethylamino) methyl]phenoxy]propyl]thiourea] | 0.46 g | C(CCNC(=S)NCCCOC1=CC(=CC=C1)CN(C)C)NC(=S)NCCCOC1=CC(=CC=C1)CN(C)C | C29H46N6O2S2
